US07714010B2
To a suspension of 3,5-difluoro-4-hydroxy-benzaldehyde as a colourless solid (0.81 g) and K2CO3 (2.14 g; 15.4 mmol) in MeCN (15 ml) is added 2-bromopropane (1.45 ml) dropwise. The mixture is stirred at 65° C. for 24 h. After evaporation of the solvent the residue is taken-up in Et2O and water. The organic layer is separated and extracted with brine, dried over MgSO4 and evaporated to give 3,5-difluoro-4-isopropoxy-benzaldehyde (0.14 g).

reactant | 3,5-difluoro-4-hydroxy-benzaldehyde | 0.81 g | FC=1C=C(C=O)C=C(C1O)F | C7H4F2O2
reactant | K2CO3 | 15.4 mmol, 2.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropane | 1.45 ml | BrC(C)C | C3H7Br
solvent | MeCN | 15 ml | CC#N | C2H3N
product | 3,5-difluoro-4-isopropoxy-benzaldehyde | 0.14 g | FC=1C=C(C=O)C=C(C1OC(C)C)F | C10H10F2O2
